US06110962
{1-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-phenyl-propyl-phosphonic acid
Iodotrimethylsilane (0.56 mL, 3.93 mmol) was added dropwise to a stirred, 0° C. solution of {1-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy ]-3-phenyl-propyl}-phosphonic acid, diethyl ester (1.07 g, 1.31 mmol) in methylene chloride (26 mL) under a dry nitrogen atmosphere over a period of 10 min. After 1 h at 0° C., the reaction mixture was quenched with 10% aq sodium bisulfite (1 mL), stirred at ambient temperature for 30 min. The mixture was partitioned in methylene chloride (100 mL) and water (100 mL). The methylene chloride phase was washed with 18% aq HCl (100 mL), concentrated, and triturated with pet. ether to afford a crude solid (0.894 g). The solid was then recrystalized from 85% aq. acetic acid (50 mL) to provide the title compound as a off-white solid (0.466 g, 47%): NMR (CDCl3); δ8.33 (d, J=9 Hz, 1 H), 7.76 (d, J=7 Hz, 1 H), 7.59 (ddd, J=8, 7, 1 Hz, 1 H), 7.48-7.40 (m, 3 H), 7.36-7.28 (m, 2 H), 7.06-6.98 (m, 5 H), 6.91-6.83 (m, 1 H), 6.77 (d, J=8 Hz, 1 H), 5.47-5.42(m, 1 H), 4.50 (s, 2 H), 3.05-2.85 (m, 2 H), 2.59-2.41 (m, 2 H); MS (FAB-): [M-H]-, 3 bromine isotope pattern, 756; Anal. Calc. for C31H22Br3O4PS: C, 48.91, H, 2.91, N, 0.00. Found: C, 49.29, H, 2.90, N, -0.02.

reactant | Iodotrimethylsilane | 3.93 mmol, 0.56 mL | I[Si](C)(C)C | C3H9ISi
reactant | {1-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy ]-3-phenyl-propyl}-phosphonic acid, diethyl ester | 1.31 mmol, 1.07 g | BrC1=C(OC(CCC2=CC=CC=C2)P(OCC)(OCC)=O)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C35H30Br3O4PS
solvent | methylene chloride | 26 mL | C(Cl)Cl | CH2Cl2
product | 1-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-phenyl-propyl-phosphonic acid | 0.466 g, 47% | BrC1=C(OC(CCC2=CC=CC=C2)P(O)(O)=O)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C31H22Br3O4PS
